US05786513
5.06 g of 2-chloro-4-methylsulfonylbenzoyl chloride are added in portions at room temperature to a mixture of 2.85 g of 4-chloro-2-methylphenol and 5.40 g of aluminum chloride in 100 ml of 1,1,2,2-tetrachloroethane, and the mixture is subsequently refluxed for 7 hours. When cold, the reaction mixture is poured onto 200 g of ice and 500 ml of concentrated hydrochloric acid. The organic phase is separated off, and the aqueous phase is extracted twice using 50 ml of dichloromethane. The combined organic phases are washed until neutral, dried over magnesium sulfate and evaporated. Recrystallization from a mixture of ethyl acetate and diisopropyl ether gives 4.2 g (60% of theory) of 2,5'-dichloro-2'-hydroxy-3'-methyl-4-methylsulfonylbenzophenone in the form of colorless crystals with a melting point of 175°-180° C.

reactant | 2-chloro-4-methylsulfonylbenzoyl chloride | 5.06 g | ClC1=C(C(=O)Cl)C=CC(=C1)S(=O)(=O)C | C8H6Cl2O3S
reactant | 4-chloro-2-methylphenol | 2.85 g | ClC1=CC(=C(C=C1)O)C | C7H7ClO
reactant | aluminum chloride | 5.40 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 500 ml | Cl | ClH
solvent | 1,1,2,2-tetrachloroethane | 100 ml | ClC(C(Cl)Cl)Cl | C2H2Cl4
product | 2,5'-dichloro-2'-hydroxy-3'-methyl-4-methylsulfonylbenzophenone | 4.2 g, 60% | ClC1=C(C(=O)C2=C(C(=CC(=C2)Cl)C)O)C=CC(=C1)S(=O)(=O)C | C15H12Cl2O4S
